* FDDA ({Template})
.subckt FDDA V_PP V_PN V_NP V_NN VDD V_CMFB VSS V_OP V_ON
XMP1 net5 V_PP net1 VDD sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP2 net6 V_PN net1 VDD sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP3 net6 V_NP net2 VDD sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP4 net5 V_NN net2 VDD sky130_fd_pr__pfet_01v8 L={L_1} W={W_1} nf=1 ad='int((1 + 1)/2) * {W_1} / 1 * 0.29' as='int((1 + 2)/2) * {W_1} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_1} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_1} / 1 + 0.29)' nrd='0.29 / {W_1} ' nrs='0.29 / {W_1} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP5 net3 V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L={L_2} W={W_2} nf=1 ad='int((1 + 1)/2) * {W_2} / 1 * 0.29' as='int((1 + 2)/2) * {W_2} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_2} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_2} / 1 + 0.29)' nrd='0.29 / {W_2} ' nrs='0.29 / {W_2} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP6 net4 V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L={L_2} W={W_2} nf=1 ad='int((1 + 1)/2) * {W_2} / 1 * 0.29' as='int((1 + 2)/2) * {W_2} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_2} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_2} / 1 + 0.29)' nrd='0.29 / {W_2} ' nrs='0.29 / {W_2} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP7 V_ON V_B4 net3 VDD sky130_fd_pr__pfet_01v8 L={L_3} W={W_3} nf=1 ad='int((1 + 1)/2) * {W_3} / 1 * 0.29' as='int((1 + 2)/2) * {W_3} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_3} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_3} / 1 + 0.29)' nrd='0.29 / {W_3} ' nrs='0.29 / {W_3} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP8 V_OP V_B4 net4 VDD sky130_fd_pr__pfet_01v8 L={L_3} W={W_3} nf=1 ad='int((1 + 1)/2) * {W_3} / 1 * 0.29' as='int((1 + 2)/2) * {W_3} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_3} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_3} / 1 + 0.29)' nrd='0.29 / {W_3} ' nrs='0.29 / {W_3} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP11 net1 V_B1 VDD VDD sky130_fd_pr__pfet_01v8 L={L_6} W={W_6} nf=1 ad='int((1 + 1)/2) * {W_6} / 1 * 0.29' as='int((1 + 2)/2) * {W_6} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_6} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_6} / 1 + 0.29)' nrd='0.29 / {W_6} ' nrs='0.29 / {W_6} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP12 net2 V_B1 VDD VDD sky130_fd_pr__pfet_01v8 L={L_6} W={W_6} nf=1 ad='int((1 + 1)/2) * {W_6} / 1 * 0.29' as='int((1 + 2)/2) * {W_6} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_6} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_6} / 1 + 0.29)' nrd='0.29 / {W_6} ' nrs='0.29 / {W_6} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN3 V_ON V_B3 net5 VSS sky130_fd_pr__nfet_01v8 L={L_4} W={W_4} nf=1 ad='int((1 + 1)/2) * {W_4} / 1 * 0.29' as='int((1 + 2)/2) * {W_4} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_4} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_4} / 1 + 0.29)' nrd='0.29 / {W_4} ' nrs='0.29 / {W_4} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN4 V_OP V_B3 net6 VSS sky130_fd_pr__nfet_01v8 L={L_4} W={W_4} nf=1 ad='int((1 + 1)/2) * {W_4} / 1 * 0.29' as='int((1 + 2)/2) * {W_4} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_4} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_4} / 1 + 0.29)' nrd='0.29 / {W_4} ' nrs='0.29 / {W_4} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN9 net5 V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L={L_5} W={W_5} nf=1 ad='int((1 + 1)/2) * {W_5} / 1 * 0.29' as='int((1 + 2)/2) * {W_5} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_5} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_5} / 1 + 0.29)' nrd='0.29 / {W_5} ' nrs='0.29 / {W_5} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN10 net6 V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L={L_5} W={W_5} nf=1 ad='int((1 + 1)/2) * {W_5} / 1 * 0.29' as='int((1 + 2)/2) * {W_5} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_5} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_5} / 1 + 0.29)' nrd='0.29 / {W_5} ' nrs='0.29 / {W_5} ' sa=0
+ sb=0 sd=0 mult=1 m=1
V4 V_B4 VSS {V_B4}
V3 V_B3 VSS {V_B3}
V2 V_B2 VSS {V_B2}
V1 V_B1 VSS {V_B1}
.ends

* CMFB ({Template})
.subckt CMFB V_CMFB V_OP V_ON VSS VDD
XMN1 net1 V_OP net2 VSS sky130_fd_pr__nfet_01v8 L={L_7} W={W_7} nf=1 ad='int((1 + 1)/2) * {W_7} / 1 * 0.29' as='int((1 + 2)/2) * {W_7} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_7} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_7} / 1 + 0.29)' nrd='0.29 / {W_7} ' nrs='0.29 / {W_7} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN2 V_CMFB V_CM net2 VSS sky130_fd_pr__nfet_01v8 L={L_7} W={W_7} nf=1 ad='int((1 + 1)/2) * {W_7} / 1 * 0.29' as='int((1 + 2)/2) * {W_7} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_7} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_7} / 1 + 0.29)' nrd='0.29 / {W_7} ' nrs='0.29 / {W_7} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN7 net2 V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L={L_5} W={W_5} nf=1 ad='int((1 + 1)/2) * {W_5} / 1 * 0.29' as='int((1 + 2)/2) * {W_5} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_5} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_5} / 1 + 0.29)' nrd='0.29 / {W_5} ' nrs='0.29 / {W_5} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN6 net4 V_ON net3 VSS sky130_fd_pr__nfet_01v8 L={L_7} W={W_7} nf=1 ad='int((1 + 1)/2) * {W_7} / 1 * 0.29' as='int((1 + 2)/2) * {W_7} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_7} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_7} / 1 + 0.29)' nrd='0.29 / {W_7} ' nrs='0.29 / {W_7} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN5 V_CMFB V_CM net3 VSS sky130_fd_pr__nfet_01v8 L={L_7} W={W_7} nf=1 ad='int((1 + 1)/2) * {W_7} / 1 * 0.29' as='int((1 + 2)/2) * {W_7} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_7} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_7} / 1 + 0.29)' nrd='0.29 / {W_7} ' nrs='0.29 / {W_7} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMN8 net3 V_B2 VSS VSS sky130_fd_pr__nfet_01v8 L={L_5} W={W_5} nf=1 ad='int((1 + 1)/2) * {W_5} / 1 * 0.29' as='int((1 + 2)/2) * {W_5} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_5} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_5} / 1 + 0.29)' nrd='0.29 / {W_5} ' nrs='0.29 / {W_5} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP9 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L={L_8} W={W_8}/2 nf=1 ad='int((1 + 1)/2) * {W_8}/2 / 1 * 0.29' as='int((1 + 2)/2) * {W_8}/2 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_8}/2 / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_8}/2 / 1 + 0.29)' nrd='0.29 / {W_8}/2 ' nrs='0.29 / {W_8}/2 '
+ sa=0 sb=0 sd=0 mult=1 m=1
XMP13 V_CMFB V_CMFB VDD VDD sky130_fd_pr__pfet_01v8 L={L_8} W={W_8} nf=1 ad='int((1 + 1)/2) * {W_8} / 1 * 0.29' as='int((1 + 2)/2) * {W_8} / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_8} / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_8} / 1 + 0.29)' nrd='0.29 / {W_8} ' nrs='0.29 / {W_8} ' sa=0
+ sb=0 sd=0 mult=1 m=1
XMP10 net4 net4 VDD VDD sky130_fd_pr__pfet_01v8 L={L_8} W={W_8}/2 nf=1 ad='int((1 + 1)/2) * {W_8}/2 / 1 * 0.29' as='int((1 + 2)/2) * {W_8}/2 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * ({W_8}/2 / 1 + 0.29)' ps='2*int((1 + 2)/2) * ({W_8}/2 / 1 + 0.29)' nrd='0.29 / {W_8}/2 ' nrs='0.29 / {W_8}/2 '
+ sa=0 sb=0 sd=0 mult=1 m=1
V2 V_B2 VSS {V_B2}
V1 V_CM VSS {V_CM}
.ends
